US07750000B2
2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)ethanol (Example 1.5)
400 mg (1.72 mmol) of 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2.0 ml (33.4 mmol) of ethanolamine were stirred at 90° C. for 16 h. After cooling, the mixture was concentrated. The resulting residue was purified by chromatography (DCM/EtOH 9:1). 282 mg of the product were obtained.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 1.72 mmol, 400 mg | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | ethanolamine | 33.4 mmol, 2.0 ml | C(O)CN | C2H7NO
product | 2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)ethanol | 282 mg | BrC1=CN=C2N1N=C(C=C2)NCCO | C8H9BrN4O
